US04150137
To a solution of 3.5 g of p-isobutylphenylacetic acid chloride in 5.9 g of 2-methoxyethanol was added 1.6 g of triethylamine, and the mixture was stirred at room temperature for 4 hours. After the reaction was complete, an inorganic substance produced was filtered off. The filtrate was extracted with ether, and the extract was washed, dehydrated and applied over a column of silica gel. The adsorbates was eluted with ether, and the eluates were freed of ether to give an oily product. Distillation of the product in vacuo gave 2.8 g of p-isobutylphenylacetic acid-2-methoxyethyl ester as a colorless oil, boiling at 97°-98° C./1 mmHg. Analysis-Calculated for C15H22O3 : C, 71.97; H, 8.86. Found: C, 71.63; H, 8.90. Mass spectrum: parent ion 250 m/e.

reactant | p-isobutylphenylacetic acid chloride | 3.5 g | C(C(C)C)C1=CC=C(C=C1)CC(=O)Cl | C12H15ClO
reactant | triethylamine | 1.6 g | C(C)N(CC)CC | C6H15N
reactant | 2-methoxyethanol | 5.9 g | COCCO | C3H8O2
product | p-isobutylphenylacetic acid-2-methoxyethyl ester | 2.8 g | COCCOC(CC1=CC=C(C=C1)CC(C)C)=O | C15H22O3
